US08207147B2
Preparation 12: Methanesulfonic acid 3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl ester
Methanesulfonyl chloride (0.50 ml, 6.50 mmol) was added to a stirred solution of (3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)methanol (1 g, 5.65 mmol) and triethylamine (0.953 ml, 6.78 mmol) in CH2Cl2 (30 ml) at 0° C. After 10 min, water (20 ml) was added and the aqueous phase extracted with CH2Cl2 (20 ml). The combined organic phases were dried (MgSO4) and evaporated to afford the title compound: RT=2.32 min; m/z (ES+)=256.0 [M+H]+.

reactant | Methanesulfonyl chloride | 6.50 mmol, 0.50 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)methanol | 5.65 mmol, 1 g | N1=CC=C(C=C1)C1=NOC(=N1)CO | C8H7N3O2
reactant | triethylamine | 6.78 mmol, 0.953 ml | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 3-pyridin-4-yl-[1,2,4]oxadiazol-5-ylmethyl ester | N1=CC=C(C=C1)C1=NOC(=N1)COS(=O)(=O)C | C9H9N3O4S
